US08076364B2
Tert-butyl 3-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethyl-amino]-propionate (which is prepared by treating the corresponding starting compound in a same manner as in Example 12(1)-(4)) (205 mg) is dissolved in a 4N-hydrochloric acid in ethyl acetate (5 ml) and the mixture is stirred at room temperature for 2 hours. To the reaction solution are added a saturated aqueous sodium bicarbonate solution and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=1:1→0:1) to give 3-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethyl-amino]-propionic acid (133 mg). MS (m/z): 680 [M+H]+

reactant | Tert-butyl 3-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethyl-amino]-propionate | FC(C=1C=C(CN(C2=NC=C(C=N2)N2CCOCC2)CC2=C(C=CC(=C2)C(F)(F)F)N(CCC(=O)OC(C)(C)C)CC)C=C(C1)C(F)(F)F)(F)F | C34H38F9N5O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 3-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethyl-amino]-propionic acid | 133 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)N2CCOCC2)CC2=C(C=CC(=C2)C(F)(F)F)N(CCC(=O)O)CC)C=C(C1)C(F)(F)F)(F)F | C30H30F9N5O3
